US06887995B2
(S)-N-[[3-[4-(3,6-dihydro-2H-thiopyran-4-yl)-3-fluorophenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide
To a mixture of [4-(3,6-dihydro-2H-thiopyran-4-yl)-3-fluorophenyl]carbamic acid 2-methylpropyl ester (17.89 g, 57.83 mmol), (S)-N-[2-(acetyloxy)-3-chloropropyl]acetamide (22.35 g, 115.42 mmol, 2.00 eq), methanol (3.66 g, 114 mmol, 1.97 eq), 2,6-di-tert-butyl-4-methylphenol (0.1365 g, 0.6194 mmol, 0.0107 eq), toluene (52 ml), isooctanes (49 ml), and N,N-dimetlhylformamide (34.3 ml) is added a solution of lithium t-butoxide (I 3.94 g, 174.1 mmol, 3.01 eq) in isooctanes (130 ml) over 1.6 h while maintaining 15° C. Isooctanes (20 ml) is added and the mixture stirred at 15 to 19° C. for 17 h. The mixture is cooled to 0° C. and acetic acid (6.7 ml, 117 mmol, 2.02 eq) added. The mixture is warmed to 21° C. and methanol (29 ml) added. The phases are separated and the upper washed twice with a mixture of methanol (29 ml) and water (9 ml). To the combined lower phases is added water (69 ml) and methylene chloride (69 ml). The phases are separated and the upper phase washed twice with methylene chloride (29 ml). The combined lower phases are concentrated under reduced pressure to 112 ml total volume. Methanol (69 ml) is added and the mixture concentrated to 112 ml. Methanol (69 ml) is added and the mixture concentrated to 75 ml then toluene (65 ml) is added. Water (65 ml) is added over ½ h while maintaining 19 to 30° C. The mixture is cooled to 9° C. and isooctanes (56 ml) added. The slurry is cooled to 0° C. and the precipitate collected by vacuum filtration, washed with water (22 ml) and isooctanes (22 ml) and dried in a nitrogen stream to give the title compound (15.909 g, 78.5%): HPLC retention time=2.77 min (column=Phenomenex Luna 5.0 micron C-8(12) 150×4.6 mm, flow rate=2.0 min/min, gradient elution from 40:60 A:B to 73.3:26.7 A:B over 15 minutes; A=acetonitrile; B=water).

reactant | [4-(3,6-dihydro-2H-thiopyran-4-yl)-3-fluorophenyl]carbamic acid 2-methylpropyl ester | 57.83 mmol, 17.89 g | CC(COC(NC1=CC(=C(C=C1)C=1CCSCC1)F)=O)C | C16H20FNO2S
reactant | (S)-N-[2-(acetyloxy)-3-chloropropyl]acetamide | 115.42 mmol, 22.35 g, 2.00 eq | C(C)(=O)O[C@@H](CNC(C)=O)CCl | C7H12ClNO3
reactant | lithium t-butoxide | 174.1 mmol, 3.94 g, 3.01 eq | CC(C)([O-])C.[Li+]
reactant | acetic acid | 117 mmol, 6.7 ml, 2.02 eq | C(C)(=O)O | C2H4O2
catalyst | 2,6-di-tert-butyl-4-methylphenol | 0.6194 mmol, 0.1365 g, 0.0107 eq | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
solvent | methanol | 29 ml | CO | CH4O
solvent | toluene | 52 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 114 mmol, 3.66 g, 1.97 eq | CO | CH4O
product | (S)-N-[[3-[4-(3,6-dihydro-2H-thiopyran-4-yl)-3-fluorophenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide | 15.909 g, 78.5% | S1CCC(=CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F | C17H19FN2O3S
